US08053581B2
Step 4: Preparation of 5-benzyl-4-(4-methoxy-phenyl)-thiazol-2-ylamine
To a 500 ml eggplant-shaped flask were added 25.00 g (78.32 mmol) 2-bromo-1-(4-methoxy-phenyl)-3-phenyl-propan-1-one prepared in the step 3 and 150 ml anhydrous ethanol, then added 5.96 g (78.32 mmol) thiourea and 6.42 g (78.32 mmol) anhydrous sodium acetate under stirring, the resulting mixture was stirred at room temperature for 1 hour, then refluxed for 2 hours, and cooled to room temperature, and a solid was precipitated, filtered, washed with water, dried to obtain 18.01 g of a product, a single spot was shown by TLC, the product was not further purified in a yield of 77.6%, mp: 177-178□. 1H-NMR (DMSO-d6, 400 MHz) δ: 3.76 (3H, s, OCH3), 4.04 (2H, s, CH2), 6.82 (2H, s, NH2), 6.93 (2H, d, J=9.00 Hz, ArH), 7.18˜7.35 (5H, m, ArH), 7.46 (2H, d, J=9.00 Hz, ArH); EI-MS m/e (%): 296.1 (M, 100), 219.0 (19); HREI-MS Calcd. for C17H16N2OS: 296.0983. found: 296.0978. Anal. Calcd. for C17H16N2OS: C, 68.89; H, 5.44; N, 9.45. found: C, 69.08; H, 5.32; N, 9.57.

reactant | 2-bromo-1-(4-methoxy-phenyl)-3-phenyl-propan-1-one | 78.32 mmol, 25.00 g | BrC(C(=O)C1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C16H15BrO2
reactant | thiourea | 78.32 mmol, 5.96 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 78.32 mmol, 6.42 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-benzyl-4-(4-methoxy-phenyl)-thiazol-2-ylamine | 18.01 g, yield of 77.6% | C(C1=CC=CC=C1)C1=C(N=C(S1)N)C1=CC=C(C=C1)OC | C17H16N2OS
